US08067437B2
Benzyl-(2,3,5,6,7,8-hexahydro-1H-cyclopenta[b]naphthalen-2-yl)-amine
According to the procedure of A. F. Abdel-Magid, et.al. J. Org. Chem. 1996, 61, 3849-3862. triethylamine (0.87 mL, 6.17 mmol) is added to a stirred suspension 2,3,5,6,7,8-hexahydro-1H-cyclopenta[b]naphthalen-2-ylamine in 1,2-dichloroethane (30 mL) under nitrogen at room temperature. Benzaldehyde (0.52 mL, 5.14 mmol) is then added followed by sodium triacetoxyborohydride (1.64 g, 7.7 mmol) and acetic acid (0.44 mL, 7.7 mmol). The reaction is stirred at room temperature for 18 hours. After diluting with dichloromethane the mixture is washed with aqueous NaOH (50 mL, 1M) followed by brine. Removal of the solvent and chromatography (silica, ethyl acetate/hexane, 2:1) affords an oil.

reactant | triethylamine | 6.17 mmol, 0.87 mL | C(C)N(CC)CC | C6H15N
reactant | 2,3,5,6,7,8-hexahydro-1H-cyclopenta[b]naphthalen-2-ylamine | C1C(CC=2C1=CC=1CCCCC1C2)N | C13H17N
reactant | Benzaldehyde | 5.14 mmol, 0.52 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 7.7 mmol, 1.64 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 7.7 mmol, 0.44 mL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Benzyl-(2,3,5,6,7,8-hexahydro-1H-cyclopenta[b]naphthalen-2-yl)-amine | C(C1=CC=CC=C1)NC1CC=2C(=CC=3CCCCC3C2)C1 | C20H23N
